US07589206B2
(c) 7-Chloro-4-iodo-3-methyl-1H-pyrrolo[2,3-c]pyridine
To a solution of 1-propenylmagnesium bromide (0.5M solution in tetrahydrofuran, 264 ml) at 0° C. under nitrogen was added a solution of 2-chloro-5-iodo-3-nitro-pyridine (11 g) in dry tetrahydrofuran (225 ml), dropwise over 45 minutes. After 10 minutes at 0° C. the reaction was quenched with saturated ammonium chloride (300 ml). The mixture was then extracted with ethyl acetate (300 ml) which was dried over magnesium sulphate, filtered and evaporated to give a red oily solid. The residue was triturated with diethyl ether and refrigerated over night. The solid was then filtered onto a sinter, sucked dry then dried at 60° C. under vacuum to afford the title compound (3.27 g). The filtrate was evaporated, dissolved in the minimum of diethyl ether and seeded with the above, refrigerated overnight, filtered and dried under vacuum at 60° C. to afford a further crop (345 mg).

reactant | 1-propenylmagnesium bromide | 0.5M, 264 ml | C(=CC)[Mg]Br
reactant | 2-chloro-5-iodo-3-nitro-pyridine | 11 g | ClC1=NC=C(C=C1[N+](=O)[O-])I | C5H2ClIN2O2
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
product | 7-Chloro-4-iodo-3-methyl-1H-pyrrolo[2,3-c]pyridine | 3.27 g | ClC=1N=CC(=C2C1NC=C2C)I | C8H6ClIN2
